US07153878B2
To a solution of 1-[2-(4-bromo-phenyl)-4-isopropyl-oxazol-5-yl]-ethanol (9.05 g, 29.2 mmol) in toluene (300 ml) at 0° C. is added tri-n-butylphosphine (7.70 g, 38.1 mmol) and 1,1′-(azodicarbonyl)-dipiperidine (8.84 g, 35.0 mmol), followed by addition of 3-(4-hydroxy-2-methyl-phenyl)-propionic acid methyl ester (6.30 g, 32.1 mmol). The resulting mixture is stirred for 18 hours while warmed up to room temperature. The reaction is quenched with water (100 ml) and the aqueous layer is extracted with EtOAc (2×100 ml). The combined organics are dried over Na2SO4 and concentrated, purified by silica gel chromatography (Hexanes/EtOAc, 9/1 to 8.5/1.5) to afford the 3-(4-{1-[2-(4-bromo-phenyl)-4-isopropyl-oxazol-5-yl]-ethoxy}-2-methyl-phenyl)-propionic acid methyl ester as a colorless oil (11.4 g, 80%). MS (MH+): 488.1.

reactant | 1-[2-(4-bromo-phenyl)-4-isopropyl-oxazol-5-yl]-ethanol | 29.2 mmol, 9.05 g | BrC1=CC=C(C=C1)C=1OC(=C(N1)C(C)C)C(C)O | C14H16BrNO2
reactant | tri-n-butylphosphine | 38.1 mmol, 7.70 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 35.0 mmol, 8.84 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 3-(4-hydroxy-2-methyl-phenyl)-propionic acid methyl ester | 32.1 mmol, 6.30 g | COC(CCC1=C(C=C(C=C1)O)C)=O | C11H14O3
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-{1-[2-(4-bromo-phenyl)-4-isopropyl-oxazol-5-yl]-ethoxy}-2-methyl-phenyl)-propionic acid methyl ester | 11.4 g, 80% | COC(CCC1=C(C=C(C=C1)OC(C)C1=C(N=C(O1)C1=CC=C(C=C1)Br)C(C)C)C)=O | C25H28BrNO4
